US05510366
(1) 4-Allyloxy-1-benzyl-2,3-dihydro-3,3,7-trimethyl-1H-indol-2-one
To a solution of 11.6 g (41.2 mmol) of 1-benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one and 8.6 g (62.2 mmol) of potassium carbonate in 120 ml of N,N-dimethylformamide was added 8.3 g (49.4 mmol) of allyl iodide, and the mixture was stirred overnight at 70° C. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and dried. The solvent was evaporated and the residue was purified by column chromatography (silica gel, 7:1 mixture of n-hexane and ethyl acetate) to obtain 8.9 g (yield 67.2%) of colorless needles of the title compound.

reactant | 1-benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one | 41.2 mmol, 11.6 g | C(C1=CC=CC=C1)N1C(C(C2=C(C=CC(=C12)C)O)(C)C)=O | C18H19NO2
reactant | potassium carbonate | 62.2 mmol, 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl iodide | 49.4 mmol, 8.3 g | C(C=C)I | C3H5I
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 4-Allyloxy-1-benzyl-2,3-dihydro-3,3,7-trimethyl-1H-indol-2-one | C(C=C)OC1=C2C(C(N(C2=C(C=C1)C)CC1=CC=CC=C1)=O)(C)C | C21H23NO2
